US07713994B2
(Z)-6-Iodo-4-((5-(1-methylpyrrolidin-2-yl)pyridin-2-ylamino)methylene)isoquinoline-1,3(2H,4H)-dione
A mixture of (E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (696 mg, 2.12 mmole), dimethylformamide (15 mL), and 5-(1-methylpyrrolidin-2-yl)pyridin-2-amine (375 mg, 2.12 mmole) is heated at 125° C. for four hours. The reaction mixture is cooled, diluted with ether, filtered, washed with fresh ether and dried to give a yellow solid, 580 mg, (58%), mp 174-206° C. dec; MS (ES+): m/z 475.0 (M+H).

reactant | (E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 2.12 mmole, 696 mg | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | 5-(1-methylpyrrolidin-2-yl)pyridin-2-amine | 2.12 mmole, 375 mg | CN1C(CCC1)C=1C=CC(=NC1)N | C10H15N3
solvent | ether | CCOCC | C4H10O
product | (Z)-6-Iodo-4-((5-(1-methylpyrrolidin-2-yl)pyridin-2-ylamino)methylene)isoquinoline-1,3(2H,4H)-dione | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=NC=C(C=C1)C1N(CCC1)C | C20H19IN4O2
